### PR TITLE
Corollary 2.32

### PR DESCRIPTION
**Pull request by Alizter**

### CODE REVIEW

File: theories/Hurewicz/Smash2.v [hunk 1]
```diff
@@ -126,4 +129,57 @@ Proof.
...
+Admitted.
+
+Global Instance contr_pmap_smash {n m : trunc_index} (X Y Z : pType)
+  `{!IsConnected n.+1 X} `{!IsConnected m.+1 Y} `{!IsTrunc (n +2+ m).+1 Z}
+  : Contr (Smash X Y ->* Z).
+Proof.
+  rapply (contr_equiv' _ (equiv_pmap_curry _ _ _)).
+Defined.
+
+(** Contractible mapping spaces are nullhomotopic *)
```
Comment (Alizter) [inline theories/Hurewicz/Smash2.v]:
```suggestion
```

File: theories/Hurewicz/Smash2.v [hunk 2]
```diff
@@ -126,4 +129,57 @@ Proof.
...
+  (** pointed homotopies can be obtained from paths in the pointed mapping space. *)
+  apply phomotopy_path.
+  (** By [contr_pmap_smash] such a path exists since the type is contractible. *)
+  rapply path_contr.
+Defined.
+
+
+
+
+
```
Comment (Alizter) [inline theories/Hurewicz/Smash2.v]:
```suggestion
```

File: theories/Hurewicz/Smash2.v [hunk 3]
```diff
@@ -126,4 +129,50 @@ Proof.
...
+(** Lemma 2.31 [van Doorn 4.3.28] *)
+(** We take this as an axiom *)
+(** No naturality conditions, just an equivalence. *)
+Lemma equiv_pmap_curry (X Y Z : pType)
+  : (X ->* (Y ->** Z)) <~> (Smash X Y ->* Z).
+Proof.
+Admitted.
+
+(** Lemma 2.27 *)
```
Comment (jdchristensen) [inline theories/Hurewicz/Smash2.v]:
```suggestion
(** Lemma 2.27 [Buchholtz-van Doorn-Rijke, Corollary 4.3] *)
```

File: theories/Hurewicz/Smash2.v [hunk 4]
```diff
@@ -126,4 +129,50 @@ Proof.
   + reflexivity.
 Defined.
 
+Transparent Smash.
+
 (* The last Lemma and Corollary from Section 2.6 still need to be done. *)
+
+(** Lemma 2.31 [van Doorn 4.3.28] *)
```
Comment (jdchristensen) [inline theories/Hurewicz/Smash2.v]:
```suggestion
(** Lemma 2.31 [van Doorn, Theorem 4.3.28] *)
```

File: theories/Hurewicz/Smash2.v [hunk 5]
```diff
@@ -126,4 +129,50 @@ Proof.
...
+(** We take this as an axiom *)
+(** No naturality conditions, just an equivalence. *)
+Lemma equiv_pmap_curry (X Y Z : pType)
+  : (X ->* (Y ->** Z)) <~> (Smash X Y ->* Z).
+Proof.
+Admitted.
+
+(** Lemma 2.27 *)
+(** We take this as an axiom. *)
+Global Instance istrunc_ppmap {n m : trunc_index} (X Y : pType)
```
Comment (jdchristensen) [inline theories/Hurewicz/Smash2.v]:
```suggestion
Global Instance istrunc_ppmap {m n : trunc_index} (X Y : pType)
```

File: theories/Hurewicz/Smash2.v [hunk 6]
```diff
@@ -126,4 +129,50 @@ Proof.
...
+  `{!IsConnected m.+1 X} `{!IsTrunc (n +2+ m).+1 Y}
+  : IsTrunc n (X ->* Y).
```
Comment (jdchristensen) [inline theories/Hurewicz/Smash2.v]: Need to have 1st number + 3rd number + 1 = 2nd number, but m+1+n+1 < n + 2 + m + 1.  It would be correct to change the 2nd number to n +2+ m, but to match the statement in BDR, we should replace the 3rd number with n.+1 (i.e., restricting to n >= -1).
```suggestion
  : IsTrunc n.+1 (X ->* Y).
```
I haven't tested whether this affects the later proofs.  I think the indexing in `contr_pmap_smash` is still correct, but the proof might require an extra step: we get that it is a prop, and the constant map provides a point.

File: theories/Hurewicz/Smash2.v [hunk 7]
```diff
@@ -126,4 +129,50 @@ Proof.
...
+
+Global Instance contr_pmap_smash {n m : trunc_index} (X Y Z : pType)
+  `{!IsConnected n.+1 X} `{!IsConnected m.+1 Y} `{!IsTrunc (n +2+ m).+1 Z}
+  : Contr (Smash X Y ->* Z).
+Proof.
+  rapply (contr_equiv' _ (equiv_pmap_curry _ _ _)).
+Defined.
+
+(** Corollary 2.32 *)
+(** Connectivity of smash *)
```
Comment (jdchristensen) [inline theories/Hurewicz/Smash2.v]:
```suggestion
(** Connectivity of the smash product.  With different indexing, this says that for [n] and [m] natural numbers, [X] [n-1]-connected and [Y] [m-1]-connected, the smash product of [X] and [Y] is [n+m-1]-connected. *)
```

**Review by jdchristensen — COMMENTED** [review]
Thanks!  I think there's at least one indexing error, so I'll check it again once you have fixed it.

File: theories/Hurewicz/Smash2.v (hunk 6 above)
Comment (Alizter) [reply theories/Hurewicz/Smash2.v]: I've fixed this now.
